US06586633B1
Production of trans-3′-[N-(6,6-Dimethyl-2-hepten-4-ynyl)-N-ethylaminomethyl]acetophenone (Compound 43)
The procedure described in Example 13 was repeated, except that 3′-(N-ethylaminomethyl)acetophenone (1.24 g; 7 mmol), sodium carbonate (instead of potassium carbonate) (745 mg; 7 mmol), and 1-bromo-6,6-dimethyl-2-hepten-4-yn (1.41 g; 7 mmol) were used, to thereby yield 1.30 g of the target compound (yield: 62.5%).

reactant | 3′-(N-ethylaminomethyl)acetophenone | 7 mmol, 1.24 g | C(C)NCC=1C=C(C=CC1)C(C)=O | C11H15NO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-6,6-dimethyl-2-hepten-4-yn | 7 mmol, 1.41 g | BrCC=CC#CC(C)(C)C | C9H13Br
product | trans-3′-[N-(6,6-Dimethyl-2-hepten-4-ynyl)-N-ethylaminomethyl]acetophenone | yield 1.30 g, yield: 62.5% | CC(C#C/C=C/CN(CC)CC=1C=C(C=CC1)C(C)=O)(C)C | C20H27NO
